US06949615B2
Production of 6-acetyl-3-oxatricyclo[4.3.1.14,8]undecan-2-one
In a flask were placed 3-oxatricyclo[4.3.1.14,8]undecan-2-one (16.6 g, 100 mmol), acetylacetonatocobalt [Co(acac)2] (50 mmol), 2,3-butanedione (600 mmol), and acetic acid (100 g). A condenser and an oxygen balloon were attached to the flask, and the mixture in the flask was vigorously stirred at 80° C. for 4 hours. After the completion of the reaction, the reaction mixture was concentrated, followed by addition of toluene and washing with water. The resulting organic layer was concentrated, the concentrate was subjected to silica gel column chromatography and thereby yielded the title compound 6-acetyl-3-oxatricyclo[4.3.1.14,8]undecan-2-one in a yield of 37%.

reactant | 3-oxatricyclo[4.3.1.14,8]undecan-2-one | 100 mmol, 16.6 g | C12C(OC3CC(CC(C1)C3)C2)=O | C10H14O2
reactant | 2,3-butanedione | 600 mmol | CC(C(C)=O)=O | C4H6O2
reactant | oxygen | O=O | O2
solvent | acetic acid | 100 g | C(C)(=O)O | C2H4O2
product | 6-acetyl-3-oxatricyclo[4.3.1.14,8]undecan-2-one | C(C)(=O)C12CC3OC(C(CC(C1)C3)C2)=O | C12H16O3
